US06335353B1
2-Hydroxymethyl-3-benzyloxy-pyran-4(1H)-one (known)
The title compound was prepared by the method outlined for 2-hydroxymethyl-3-benzyloxy-6-methyl-pyran-4(1B)-one, using 7.1 g (50 mmol, 1 eq.) of 2-hydroxymethyl-3-hydroxy-pyran-4(1 H)-one and 9.5 g benzyl bromide (55 mmol, 1.1 eq.) to yield the crude product as an organe oil. Further purification by column chromatography on silica gel (eluant: 10% CH3OH/90% CHCl3) furnished the pure product (9.4 g, 81%) as a bright yellow oil. (Looker and Clifton (1986).

reactant | 2-hydroxymethyl-3-hydroxy-pyran-4(1 H)-one | 50 mmol, 7.1 g, 1 eq. | OCC=1OC=CC(C1O)=O | C6H6O4
reactant | benzyl bromide | 55 mmol, 9.5 g, 1.1 eq. | C(C1=CC=CC=C1)Br | C7H7Br
product | 2-Hydroxymethyl-3-benzyloxy-pyran-4(1H)-one | OCC=1OC=CC(C1OCC1=CC=CC=C1)=O | C13H12O4
